US04254135
Trans-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide.
This compound was prepared in a manner analagous to Example 2, using 8.1 g of trans-4-amino-1-cyclohexyl-3-pyrrolidinol, 10 g of potassium carbonate and 6.2 g of benzoyl chloride. After filtration and solvent evaporation, the residue crystallized and was recrystallized from acetone. Yield was 5.8 g (45%), m.p. 154.0°-155.5° C.

reactant | trans-4-amino-1-cyclohexyl-3-pyrrolidinol | 8.1 g | N[C@H]1[C@@H](CN(C1)C1CCCCC1)O | C10H20N2O
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 6.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | Trans-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide | C1(CCCCC1)N1C[C@H]([C@@H](C1)O)NC(C1=CC=CC=C1)=O | C17H24N2O2
